US09359338B2
Step 3: Synthesis of 3-fluoro-1H-indol-5-amine
Add zinc powder (387 mg, 5 mmol) portionwise to a solution of 3-fluoro-5-nitro-1H-indole (360 mg, 2 mmol) in methanol (10 mL). Then add dropwise 15.5% ammonium chloride solution (10 mL, 20 mmol), stir the reaction at ambient temperature for 5 hrs. Filter, dilute the filtrate with water (50 mL), extract with ethyl acetate (50 mL×2), wash with brine (50 mL×2), dry over anhydrous sodium sulfate. Concentrate under reduced pressure to give the crude product. Purify by flash chromatography (silica gel, EtOAc:PE=1:3) to yield the title compound (150 mg, 50%). MS: (M+1): 151.2.

reactant | 3-fluoro-5-nitro-1H-indole | 2 mmol, 360 mg | FC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C8H5FN2O2
reactant | ammonium chloride | 20 mmol, 10 mL | [Cl-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | zinc | 5 mmol, 387 mg | [Zn] | Zn
product | 3-fluoro-1H-indol-5-amine | 150 mg, 50% | FC1=CNC2=CC=C(C=C12)N | C8H7FN2
